US06235731B1
3) Synthesis of N-(piperidin-4-ylmethyl)-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)acrylamide dihydrochloride
To this crude N-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)acrylamide was added 1 ml of concentrated hydrochloric acid and the mixture was stirred at room temperature for 0.5 hour. After addition of ethanol, the mixture was stirred and the resulting precipitate was collected and washed serially with ethanol and diethyl ether to provide the title compound.

reactant | N-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)acrylamide | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC(C=CC1=CC2=CN=C3C=CC=C(S1)N32)=O | C23H28N4O3S
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | N-(piperidin-4-ylmethyl)-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)acrylamide dihydrochloride | Cl.Cl.N1CCC(CC1)CNC(C=CC1=CC2=CN=C3C=CC=C(S1)N32)=O | InChI=1S/C18H20N4OS.2ClH/c23-17(21-11-13-6-8-19-9-7-13)5-4-15-10-14-12-20-16-2-1-3-18(24-15)22(14)16;;/h1-5,10,12-13,19H,6-9,11H2,(H,21,23);2*1H
